US03957757
A mixture of 5 gm of 3-chloro-9-hydroxymethyl-9(β-dimethylaminoethyl)-10-methyl-acridane, 200 cc of xylene and 25 gm of phosphoric acid anhydride was refluxed for 3 hours with stirring and after cooling, the reaction mixture was poured over ice. The resulting mixture was made alkaline by the addition of 50 cc of sodium hydroxide solution and was extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and distilled to dryness in vacuo. The residue was subjected to chromatography over silica gel with elution with a 6-3-1 mixture of cyclohexane-chloroform-triethylamine. Evaporation of the solvent gave 4.15 gm of 7-chloro-5-methyl-10-(β-dimethylaminoethyl)-dibenzo (b,f) azepine. The product was amorphous and was soluble in alcohols, chlorinated solvents, ether and benzene and insoluble in water.

reactant | 3-chloro-9-hydroxymethyl-9(β-dimethylaminoethyl)-10-methyl-acridane | 5 gm | ClC=1C=CC=2C(C3=CC=CC=C3N(C2C1)C)(CCN(C)C)CO | C19H23ClN2O
reactant | phosphoric acid anhydride | 25 gm | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | 50 cc | [OH-].[Na+]
solvent | xylene | 200 cc | C=1(C(=CC=CC1)C)C | C8H10
product | 7-chloro-5-methyl-10-(β-dimethylaminoethyl)-dibenzo (b,f) azepine | 4.15 gm | ClC1=CC2=C(C(=CC3=C(N2C)C=CC=C3)CCN(C)C)C=C1 | C19H21ClN2
